US04482553
4-(2-Thienyl)butyric acid was reacted with thionyl chloride and stannic chloride to provide 5-oxo-4,5,6,7-tetrahydrobenzothiophene, which upon reaction with hydrazine and sodium hyroxide gave 4,5,6,7-tetrahydrobenzothiophene. A solution of 13.3 g of 4,5,6,7-tetrahydrobenzothiophene in 150 ml of dichloromethane was added dropwise to a stirred suspension of 13.1 g of ethyl oxalyl chloride and 14.0 g of aluminum chloride in 200 ml of dichloromethane. The reaction mixture was stirred for twelve hours at 25° C. following the addition. The reaction mixture was poured into 500 g of ice and then the organic layer was separated, dried, and the solvent was removed by evaporation to give 19.2 g of ethyl α-oxo-α-(4,5,6,7-tetrahydro-2-benzothienyl)acetate.

reactant | 4-(2-Thienyl)butyric acid | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 5-oxo-4,5,6,7-tetrahydrobenzothiophene | O=C1CCC2=C(C=CS2)C1 | C8H8OS
